US05773476
M36: (E)-3-(3, 5-di-t-butyl-4-hydroxyphenyl)-2-(cyanomethylsulfonyl)acrylonitrile
M36 was prepared with 3,5-di-t-butyl-4-hydroxybenzaldehyde and sulfonyl diacetonitrile under similar conditions as described for M27.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | sulfonyl diacetonitrile | S(=O)(=O)(CC#N)CC#N | C4H4N2O2S
product | (E)-3-(3, 5-di-t-butyl-4-hydroxyphenyl)-2-(cyanomethylsulfonyl)acrylonitrile | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)/C=C(\C#N)/S(=O)(=O)CC#N | C19H24N2O3S
